Data/regression/rad6re/fold_0/aam_train.csv
AAM,dh
[H:1][C:2]([H:3])([H:4])[O:5][C:6]([H:7])([H:8])[O:9][C:10]([H:11])([H:12])[C:13]([H:14])([H:15])[H:16]>>[C:10]([H:11])([H:12])[C:13]([H:14])([H:15])[H:16].[H:1][C:2]([H:3])([H:4])[O:5][C:6]([H:7])([H:8])[O:9],3.5141699762800003
[H:1][O:2]/[C:3]([H:4])=[C:5]/[O:6][C:7][H:8].[H:9]>>[H:1][O:2]/[C:3]([H:4])=[C:5]/[O:6][C:7]([H:8])[H:9],-4.56427849586
[H:1][O:2][C:3]([H:4])([C:5]([H:6])([H:7])[H:8])[C:9]([H:10])([H:11])[H:12]>>[H:12].[H:1][O:2][C@:3]([H:4])([C:5]([H:6])([H:7])[H:8])[C:9]([H:10])[H:11],4.62470568687
[H:1][O:2][C:3]([H:4])[C:12]([H:13])([H:14])[H:15].[O:5]=[C:6]([H:7])[C:8]([H:9])([H:10])[H:11]>>[H:1][O:2][C@:3]([H:4])([O:5][C:6]([H:7])[C:8]([H:9])([H:10])[H:11])[C:12]([H:13])([H:14])[H:15],-0.6716307856199999
[C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15].[H:1][C:2]/[C:3]([H:4])=[C:5](\[H:6])[O:7][H:8]>>[H:1][C:2]=[C:3]([H:4])[C@:5]([H:6])([O:7][H:8])[C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15],-3.16012395671
[H:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[C:9][C:12]([C:10][H:11])([H:13])[H:14]>>[H:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[C:9]1=[C:10]([H:11])[C:12]1([H:13])[H:14],-5.72780405
[C:1]=[C:2]([C:3]([H:4])([H:5])[H:6])[C:7]([H:8])([C:9]([H:10])([H:11])[H:12])[C:13]([H:14])([H:15])[H:16]>>[C:1]#[C:2][C:7]([H:8])([C:9]([H:10])([H:11])[H:12])[C:13]([H:14])([H:15])[H:16].[C:3]([H:4])([H:5])[H:6],3.18462527431
[C:4](\[H:5])(=[C:6](/[H:7])[O:8][H:9])[C:10]([H:11])([H:12])[H:13].[O:1]=[C:2][H:3]>>[O:1]=[C:2]([H:3])[C@:4]([H:5])([C:6]([H:7])[O:8][H:9])[C:10]([H:11])([H:12])[H:13],-1.1844032315100002
[H:1][C:2]=[C:3]([H:4])[O:5][C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[O:12][H:13]>>[H:1][C:2]#[C:3][O:5][C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[O:12][H:13].[H:4],2.0859737391900004
[C:1]=[C:2]([C:3]([O:4][H:5])=[O:6])[C:8]([H:9])([H:10])[H:11].[H:7]>>[C:1][C:2](=[C:3]([O:4][H:5])[O:6][H:7])[C:8]([H:9])([H:10])[H:11],-1.14428113463
[H:1][C:2]([H:3])=[C:4]([H:5])[O:6][C:7][O:8][C:9]([H:10])([H:11])[H:12]>>[C:9]([H:10])([H:11])[H:12].[H:1][C:2]([H:3])=[C:4]([H:5])[O:6][C:7]=[O:8],1.65742824822
[H:1][O:2][C:3]([H:4])([H:5])[O:6][H:7]>>[C:3]([H:4])([H:5])[O:6][H:7].[H:1][O:2],5.27996505422
[H:4].[O:1]=[C:2]=[C:3][C:5]([H:6])[O:7][H:8]>>[O:1]=[C:2]/[C:3]([H:4])=[C:5](\[H:6])[O:7][H:8],-2.47591611317
[C:1][C:2]([H:3])([H:4])[C:5]([H:6])([H:7])[O:8][O:9][C:10]([H:11])([H:12])[H:13]>>[C:1].[C:2]([H:3])([H:4])[C:5]([H:6])([H:7])[O:8][O:9][C:10]([H:11])([H:12])[H:13],3.89685380484
[C:3](#[C:4][C:5]([H:6])([H:7])[H:8])[C:9]([H:10])=[C:11][H:12].[H:1][C:2]([H:13])[H:14]>>[H:1]/[C:2]([C:3]#[C:4][C:5]([H:6])([H:7])[H:8])=[C:9](/[H:10])[C:11]([H:12])([H:13])[H:14],-4.60612669703
[C:9]([H:10])#[C:11][C:12]([H:13])[H:14].[H:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])[H:8]>>[H:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[C:9]([H:10])=[C:11]=[C:12]([H:13])[H:14],-3.64360996652
[O:1]=[C:2]([H:3])[C:4]([C:5]([H:6])([H:7])[H:8])[C:9]([H:10])([H:11])[O:12][H:13]>>[H:11].[O:1]=[C:2]([H:3])/[C:4]([C:5]([H:6])([H:7])[H:8])=[C:9](\[H:10])[O:12][H:13],1.6583265269999998
[C:5]([H:6])(=[C:7]([H:8])[H:9])[C:10]([H:11])([H:12])[H:13].[H:1][C:2]#[C:3][O:4]>>[H:1][C:2]#[C:3][O:4][C@:5]([H:6])([C:7]([H:8])[H:9])[C:10]([H:11])([H:12])[H:13],0.35042821038000005
[C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[H:12].[O:1][O:2][C:3]#[C:4][H:5]>>[O:1][O:2][C:3][C:4]([H:5])[C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[H:12],-2.715439485
[C:7]([H:8])([C:9]([H:10])([H:11])[H:12])[C:13]([H:14])([H:15])[H:16].[H:1][C:2]#[C:3][C:4]([H:5])[H:6]>>[H:1][C:2]#[C:3][C:4]([H:5])([H:6])[C:7]([H:8])([C:9]([H:10])([H:11])[H:12])[C:13]([H:14])([H:15])[H:16],-3.31585412553
[H:1][C:2][O:3][C@@:4]1([H:5])[C:6][O:7][C:8]1[H:9]>>[H:1][C:2][O:3]/[C:4]([H:5])=[C:8](/[O:7][C:6])[H:9],-0.6986710535799999
[C:2][O:3]/[C:4]([H:5])=[C:6]/[O:7][C:8]([H:9])[H:10].[H:1]>>[H:1][C:2][O:3]/[C:4]([H:5])=[C:6]/[O:7][C:8]([H:9])[H:10],-3.5407705988
[C:1]#[C:2].[C:3]([O:4][H:5])[C:6]([H:7])([H:8])[C:9]([H:10])[H:11]>>[C:1]#[C:2][C:3]([O:4][H:5])[C:6]([H:7])([H:8])[C:9]([H:10])[H:11],-6.96337687886
[H:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])[C:9]#[C:10][C:11]([H:12])[H:13].[H:8]>>[H:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[C:9]#[C:10][C:11]([H:12])[H:13],-2.61355456742
[H:13].[H:1][C:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[C:12]#[C:14][H:15]>>[H:1][C:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[C:12]([H:13])=[C:14][H:15],-1.72597938042
[H:1][C:2]#[C:3][C:4](=[O:5])[C:6]([H:7])[C:8]([H:9])([H:10])[H:11]>>[H:1][C:2]#[C:3][C:4]1[O:5][C@:6]1([H:7])[C:8]([H:9])([H:10])[H:11],1.0923676603
[H:1][C:2]([H:3])([H:4])[C:5][C:6]([H:7])([H:8])[C:9]1[O:10][O:11]1>>[H:1][C:2]([H:3])([H:4])[C:5][C:6]([H:7])([H:8])[C:9][O:10][O:11],1.5316773085799995
[C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[O:10][C:11]([H:12])([H:13])[H:14].[H:1][O:2][C:3]>>[H:1][O:2][C:3][C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[O:10][C:11]([H:12])([H:13])[H:14],-3.34914464389
